US05153203
7-(1-Methyl-4--piperidyloxy)-1-cyclopropyl-6-fluoro-1,4-dihydro- 4-oxoquinoline-3-carboxylic acid (Compound No. 13)
To a mixture of 530 mg of 6,7-difluoro-1-cyclopropyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 690 mg of N-methyl-4-piperidinol and 8 ml of DMF was added 320 mg of 60% sodium hydride while the former was stirred under ice cooling. After the resultant mixture was stirred for 10 minutes at room temperature, 480 mg of acetic acid was added. DMF was distilled off under reduced pressure. To the residue was added 15 ml of n-hexane. The resultant mixture was thoroughly shaken and mixed. The supernatant was discarded. To the resultant precipitate was added 8 ml of ethanol, followed by stirring. A precipitate thus precipitated was collected by filtration, whereby 578 mg of the title compound was obtained.

reactant | 6,7-difluoro-1-cyclopropyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 530 mg | FC=1C=C2C(C(=CN(C2=CC1F)C1CC1)C(=O)O)=O | C13H9F2NO3
reactant | N-methyl-4-piperidinol | 690 mg | CN1CCC(CC1)O | C6H13NO
reactant | DMF | 8 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | 320 mg | [H-].[Na+]
solvent | acetic acid | 480 mg | C(C)(=O)O | C2H4O2
product | 7-(1-Methyl-4--piperidyloxy)-1-cyclopropyl-6-fluoro-1,4-dihydro- 4-oxoquinoline-3-carboxylic acid | 578 mg | CN1CCC(CC1)OC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C19H21FN2O4
